US06255319B1
1.1. 4-Amino-5-chloro-2-methoxybenzoic acid hydrazide
51.5 g (0.239 mol) of methyl 4-amino-5-chloro-2-methoxybenzoate suspended in 460 ml of ethanol are introduced into a 1 l reactor. 119 g (2.39 mol) of hydrazine hydrate are added, over 15 min, and the mixture is refluxed for 15 h.

reactant | methyl 4-amino-5-chloro-2-methoxybenzoate | 0.239 mol, 51.5 g | NC1=CC(=C(C(=O)OC)C=C1Cl)OC | C9H10ClNO3
reactant | hydrazine hydrate | 2.39 mol, 119 g | O.NN
solvent | ethanol | 460 ml | C(C)O | C2H6O
product | 4-Amino-5-chloro-2-methoxybenzoic acid hydrazide | NC1=CC(=C(C(=O)NN)C=C1Cl)OC | C8H10ClN3O2
